2187-03-03 06:33:00 Physician Resident Progress Note
Chief Complaint: altered mental status, fever, intubated and on
   levophed
   24 Hour Events:
   -weaned off levophed
   -continued with IVF boluses of LR total of 2L for CVP of <10, low urine
   output
   -continued on D5W for hypernatremia
   -continued on Vanc and Zosyn
   -started insulin gtt
   -cosyntropin stim -> low initial cortisol  however stim was appropriate
   -sputum CX with 4+GPR, 1+GPC
 MULTI LUMEN - START [**2187-3-2**] 01:08 PM
 BLOOD CULTURED - At [**2187-3-2**] 01:17 PM
 EKG - At [**2187-3-2**] 05:39 PM
   Allergies:
   Ipratropium
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2187-3-3**] 06:11 AM
   Vanc
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 950 units/hour
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Other medications:
   Lansoprazole, citalopram, memantine, donepazil, asa, feso4,
   acetominophen
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2187-3-3**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.4
   HR: 77 (67 - 102) bpm
   BP: 102/55(67){83/48(56) - 137/94(102)} mmHg
   RR: 24 (14 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.1 kg (admission): 94.1 kg
   Height: 70 Inch
    CVP: 10 (3 - 11)mmHg
   CO/CI (Fick): (10.4 L/min) / (4.9 L/min/m2)
   SvO2: 75%
   Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                  7,044 mL
                                                                  2,060 mL
   PO:
   TF:
   IVF:
                                                                  3,044 mL
                                                                  1,910 mL
   Blood products:
   Total out:
                                                                    375 mL
                                                                    195 mL
   Urine:
                                                                    375 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,669 mL
                                                                  1,865 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 368 (0 - 424) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 62
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.34/43/80.[**Numeric Identifier 248**]/24/-2
   Ve: 8.7 L/min
   PaO2 / FiO2: 200
   Physical Examination:
   Gen: intubated, sedated, grimaces to sternal rub
   Lungs: bibasilar crackles/ronchi
   CV: RRR
   ABD: soft, NT ND BS+
   EXT: warm, no pedal edema, DP
s 1+B
   Skin:  flushed, blanching, no rash, lesions
   Neurologic: Responds to: minimal response to pain, Movement: Not
   assessed, Tone: normal
   Labs / Radiology
   227 K/uL
   10.0 g/dL
   159 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.6 mEq/L
   44 mg/dL
   120 mEq/L
   153 mEq/L
   31.9 %
   17.4 K/uL
        [image002.jpg] 11pm lactate: 2.3
                             [**2187-3-2**]  01:08 PM
                             [**2187-3-2**]  07:37 PM
                             [**2187-3-2**]  11:27 PM
                             [**2187-3-3**]  04:32 AM
   WBC
   18.0
   17.4
   Hct
   30.6
   31.7
   31.9
   Plt
   259
   227
   Cr
   1.3
   1.2
   TropT
   1.60
   1.56
   TCO2
   24
   Glucose
   250
   159
   Other labs: PT / PTT / INR:18.4/60.8/1.7, CK / CKMB /
   Troponin-T:85/13/1.56, ALT / AST:[**1-29**], Alk Phos / T Bili:76/0.6,
   Lactic Acid:2.3 mmol/L, Albumin:2.4 g/dL, LDH:222 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   MICRO:
   [**3-2**] Sputum Cx: 4+GPR, 1+GPC >25PMN <10 epith
   [**3-2**] Stool: P
   [**3-2**] Blood cx: P
   Radiology:
   [**3-3**] CXR: ordered for 2pm
   [**3-2**] CXR:
   1) Satisfactory right IJ placement; no pneumothorax.
   2) NG tube should be advanced.
   3) Persisting bibasilar opacities
   Assessment and Plan
   [**Age over 90 212**] yo M with PMH CRI, CAD, dementia admitted with fever,
   unresponsiveness and recent aspiration pneumonia, intubated in the ED
   for airway protection/hypoxia.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): most likely due to acute
   mucous plugging and thick secretions in the setting of aspiration
   pneumonia.  Currently saturating very well on minimal ventillatory
   support with pressure support of [**6-11**].
   - cont current vent setting of PS 5/5 as tolerated, if mental
   status/level of consciousness improves may tolerate extubation today.
   - pulmonary toilet
   - follow sputum cultures ID and sensitvities
   - empiric PNA coverage with vanco and zosyn, will wean abx if  possible
   based on culture data.
 ALTERED MENTAL STATUS (NOT DELIRIUM): contributing factors on
   admission include acute infection, fever and significant
   hypernatremia.
   - wean sedation on ventilator as tolerated, currently off sedation
   -correct hypernatremia slowly as discussed below, free water deficit of
   5L, replete 2L over 24 hours, will change to free water via G tube
   once decision about extubation made.
   -treat infection as above
   # Hypotension: normotensive on admission, however became progressively
   hypotensive in the ED in the setting of infection but also of sedatives
   given for intubation.
   - LR boluses for goal CVP > 8 and urine output of 0.5-1cc/kg/hr
   - start stress dose steroids as [**Last Name (un) 45**] stim with low baseline cortisol
   - cycle cardiac enzymes
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE): he has
   significant h/o CAD/prior MI with EF of 20%.  Now with elevated
   troponin and MBI, however normal CK and CKMB.  Concerning for demand
   ischemia in setting of hypotension vs. ACS.  At this time more likely
   demand ischemia given normal CK however given significant h/o CAD ACS
   is also possible.  No EKG changes, however baseline LBB.
   - monitor on telemetry
   - serial EKG and cardiac enzymes, if continues to trend down will stop
   heparin gtt after completing a course of 48 hours
   - cont ASA
   - start heparin gtt without bolus for NSTEMI
   - on sepsis protocol, on statin or placebo, if enzymes continuing to
   trend up will consider stopping study and giving ensuring that he is
   getting high dose statin.
 HYPERNATREMIA (HIGH SODIUM): FWD of 7.2L on admission, will replete
   half of deficit over the next 24 hours with D5W.  free water deficit of
   5L, replete 2L over 24 hours, will change to free water via G tube
   once decision about extubation made.
   - check Na Q4H
   - on D5W x2 L over next 24 hours
   # Fever: most likely causes include report of suspected aspiration PNA
   vs sinusitis seen on head ct vs. diarrhea.  UA negative.
   - follow blood and sputum cultures
   - follow stool CDiff toxin
   - empiric therapy with vanco, zosyn as above
 ANEMIA, OTHER: likely with baseline anemia of chronic
   disease/hemodilution.  No evidence of acute bleed.
   - trend Hct [**Hospital1 **]
   - guaiac stools
 [**Last Name 121**] PROBLEM - Coagulopathy: most likely [**3-10**] nutritional deviciency,
   no h/o recent anticoagulation.
   -          hold vitamin K tx due to concern for NSTEMI
   -          monitor for bleeding
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE): baseline cr around 1, elevated to 1.8 on admission likely [**3-10**]
   infection and volume depletion.  Trending back toward baseline with IVF
   boluses.
   -trend Cr
   -continue to hydrate with IVF for CVP>8 and UO >40cc/hr
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC: EF 20%, evidence of
   pulmonary edema on CXR, however CVP has been dropping below 10 with
   borderline UO
   -continue with LR boluses for CVP >8, hold off if making good urine and
   bp stable
   -monitor for evidence of worsening pulmonary edema by O2 sat, or
   increasing ventillator requirements
   -try to avoid over hydration as may be able to extubate this
   afternoon/tomorrow
   -holding metoprolol for now
   -not on ACEI as outpatient
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT): underlying dementia,
   NH resident
   - cont memantine and donepezil and celexa
 DIABETES MELLITUS (DM), TYPE II: insulin dependent with prior
   admission for HONC.  Hyperglycemic up to 400's on admission, likely [**3-10**]
   to infection and steroids.
   - started on insulin gtt as unable to control blood glucose with SQ
   insulin
 DYSPHAGIA
   Tube feeds via G tube
   ICU Care
   Nutrition: NPO p MN for possible extubation, start tube feeds after MN
   if no plan for extubation or following extubation, replete
   Glycemic Control: insulin gtt
   Lines:
   Multi Lumen - [**2187-3-2**] 01:08 PM
   18 Gauge - [**2187-3-2**] 01:11 PM
   Prophylaxis:
   DVT: heparin gtt, pneumoboots
   Stress ulcer: PPI
   VAP:  yes
   Comments:
   Communication:  - Wife [**Telephone/Fax (1) 232**]   - Daughter: [**First Name8 (NamePattern2) 233**] [**Last Name (NamePattern1) 234**]
   ([**Telephone/Fax (1) 235**]
   Code status: Full code, confirmed with wife and daughter on admission
   Disposition: ICU

2187-03-03 09:29:00 Physician Attending Progress Note
Chief Complaint: Found unresponsive
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   Was being treated for pneumonia in NH and found unresponsive, febrile
   and brought to ED whereupon was intubated (airway protection) and found
   to have elevated WBC, developed hypotension post-intubation requiring
   levophed.
   24 Hour Events:
 MULTI LUMEN - START [**2187-3-2**] 01:08 PM
 BLOOD CULTURED - At [**2187-3-2**] 01:17 PM
 EKG - At [**2187-3-2**] 05:39 PM
   - weaned off levophed drip
   - received IVF boluses overnight (received 2 liters overnight) for
   decreased urine output, low CVP, low BP
   History obtained from Medical records
   Patient unable to provide history: intubated
   Allergies:
   Ipratropium
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2187-3-3**] 06:11 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 950 units/hour
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Other medications:
   Vancomycin
   aspirin
   iron
   mvi
   celexa
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-3-3**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 75 (67 - 102) bpm
   BP: 102/58(68){83/48(56) - 137/94(102)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.1 kg (admission): 94.1 kg
   Height: 70 Inch
   CVP: 7 (3 - 245)mmHg
   CO/CI (Fick): (9.9 L/min) / (4.7 L/min/m2)
   SvO2: 76%
   Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                  7,044 mL
                                                                  2,411 mL
   PO:
   TF:
   IVF:
                                                                  3,044 mL
                                                                  2,261 mL
   Blood products:
   Total out:
                                                                    375 mL
                                                                    221 mL
   Urine:
                                                                    375 mL
                                                                    221 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,669 mL
                                                                  2,190 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 368 (0 - 424) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 62
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.34/43/80.[**Numeric Identifier 248**]/24/-2
   Ve: 8.7 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   227 K/uL
   159 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.6 mEq/L
   44 mg/dL
   120 mEq/L
   153 mEq/L
   31.9 %
   17.4 K/uL
        [image002.jpg]
                             [**2187-3-2**]  01:08 PM
                             [**2187-3-2**]  07:37 PM
                             [**2187-3-2**]  11:27 PM
                             [**2187-3-3**]  04:32 AM
   WBC
   18.0
   17.4
   Hct
   30.6
   31.7
   31.9
   Plt
   259
   227
   Cr
   1.3
   1.2
   TropT
   1.60
   1.56
   TCO2
   24
   Glucose
   250
   159
   Other labs: PT / PTT / INR:18.4/60.8/1.7, CK / CKMB /
   Troponin-T:85/13/1.56, ALT / AST:[**1-29**], Alk Phos / T Bili:76/0.6,
   Differential-Neuts:94.6 %, Band:Units: %
   Range: 0-5 %, Lymph:4.3 %, Mono:1.0 %, Eos:0.1 %, Lactic Acid:2.3
   mmol/L, Albumin:2.4 g/dL, LDH:222 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   1-       Acute RESPIRATORY FAILURE, ACUTE: secondary to pneumonia and
   poor mental status(inability to protect airway)
   Plan: Continue mechanical ventilation as mental status precludes
   extubation.  Will re-evaluate in afternoon/tomorrow.  Currently on
   pressure support and will continue as long as patient tolerates.
   2 - Pneumonia:
      Plan: continue Vanc/Zosyn (WBC decreasing)
   3- Septic shock/hypotension: remains relatively hypotensive (systolic
   80-90s) although off pressors currently
      Plan: Continue IVF as needed based on endpoints of blood pressure,
   lactate, urine output, CVP
will continue physiologic dose
   hydrocortisone for relative insufficiency (baseline 10) and discontinue
   as soon as blood pressure improves
   4 - Coronary Artery Disease (NSTEMI vs. Demand ischemia): Will continue
   heparin for 48 hours.  Decision made to withdraw patient from statin
   vs. placebo sepsis trial as statin is currently indicated for the
   possibility of NSTEMI.  Will receive statin therapy as well as aspirin.
   5 -Hypernatremia:
      Plan: continue free water
   6 -Coagulopathy:
   7 - Acute renal failure: likely secondary to pre-renal azotemia and now
   improving with fluids
   8- ANEMIA, OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Coagulopathy
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 DIABETES MELLITUS (DM), TYPE II
 DYSPHAGIA
   Tube feeds via G tube
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-3-2**] 01:08 PM
   18 Gauge - [**2187-3-2**] 01:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2187-03-04 08:00:00 Physician Resident Progress Note
Chief Complaint: lethargy, fever and hypoxia
   24 Hour Events:
   - received total of 4L LR for SBP 90s with low UOP
   - hypernatremia resolved after LR boluses
   - recieved stress dose steroids, though stim from 10.5 --> 26.9 -->
   20.3
   - CXR obtained yesterday afternoon for routine F/U, Showed evidence of
   bil pulm infiltrates with interval worsening on the left
   - was not extubated because no improvement in mental status with
   decreased sedation
   - AM RSBI 73
   History obtained from Medical records
   Allergies:
   History obtained from Medical records
   Ipratropium-Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2187-3-3**] 12:45 PM
   Piperacillin - [**2187-3-4**] 12:00 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Neurologic: unresponsive
   Flowsheet Data as of  [**2187-3-4**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 71 (68 - 96) bpm
   BP: 94/62(70){82/50(58) - 127/77(90)} mmHg
   RR: 20 (12 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.1 kg (admission): 94.1 kg
   Height: 70 Inch
    CVP: 9 (6 - 16)mmHg
   CO/CI (Fick): (11 L/min) / (5.2 L/min/m2)
   SvO2: 78%
   Total In:
                                                                  7,230 mL
                                                                  1,358 mL
   PO:
   TF:
   IVF:
                                                                  7,000 mL
                                                                  1,278 mL
   Blood products:
   Total out:
                                                                    563 mL
                                                                    265 mL
   Urine:
                                                                    463 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,667 mL
                                                                  1,093 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 425 (390 - 450) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: ///23/
   Ve: 10.6 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant), Distant heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   inspiratory, Diminished: at bases bilaterally)
   Abdominal: Soft, Distended, non-tympanic; tube in place, dressed
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Not assessed, No(t) Rash: in limited exam
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   233 K/uL
   9.5 g/dL
   83 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.9 mEq/L
   37 mg/dL
   112 mEq/L
   140 mEq/L
   29.5 %
   16.5 K/uL
        [image002.jpg]
                             [**2187-3-2**]  01:08 PM
                             [**2187-3-2**]  07:37 PM
                             [**2187-3-2**]  11:27 PM
                             [**2187-3-3**]  04:32 AM
                             [**2187-3-3**]  05:50 PM
                             [**2187-3-3**]  10:57 PM
                             [**2187-3-4**]  05:00 AM
   WBC
   18.0
   17.4
   16.5
   Hct
   30.6
   31.7
   31.9
   29.7
   29.5
   Plt
   259
   227
   233
   Cr
   1.3
   1.2
   1.1
   1.1
   1.1
   TropT
   1.60
   1.56
   1.42
   TCO2
   24
   Glucose
   [**Telephone/Fax (2) 285**]
   Other labs: PT / PTT / INR:18.2/67.7/1.7, CK / CKMB /
   Troponin-T:85/12/1.42, ALT / AST:[**1-29**], Alk Phos / T Bili:76/0.6,
   Differential-Neuts:94.6 %, Band:Units: %
   Range: 0-5 %, Lymph:4.3 %, Mono:1.0 %, Eos:0.1 %, Lactic Acid:2.3
   mmol/L, Albumin:2.4 g/dL, LDH:222 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Presumed secondary to aspiration pneumonia. Getting vanc/zosyn.
   Following cultures. Gram stain shows GPRs and GPCs, resp cx shows
   sparse GNRs; difficult to assess what the causative pathogen would be
   and therefore continuing to cover broadly. WBC is declining; afebrile;
   CXR c/w pneumonia. Fluid overload may also be playing a role. Will
   gently diurese today.
   In terms of ventilation, his RSBI is <100 but his mental status is poor
   and it is not clear that he could protect his airway. Will continue to
   keep intubated and reassess as we go, assessing both RSBI and capacity
   to wake up.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   See above. Essentially unresponsive this am. Concerning for hypoxic
   brain injury but may be metabolic stress of infection. Hypernatremia is
   corrected, should not be a factor at this point. Treating infection;
   given dementia, pt is likely to have very little cerebral reserve, may
   improve with treatment.
   HYPOTENSION
   Low this morning. ?Perisepsis vs element of cardiac insufficiency.
   Responsive to fluids. Will check VBG+ABG to measure CO via Fick; will
   put in A-line for ongoing more reliable measurement of BP.
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Elevated troponin on admission to 1.6. Will follow up cardiac enzymes.
   For now no new evidence of MI. Have stopped heparin gtt, but if cardiac
   enzymes elevate again, will restart.
 ANEMIA, OTHER
   If signs of MI would transfuse for Hct <30. If none, transfuse <25. No
   acute drop currently, no significant worry for bleed.
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   Creatinine normalizing. Goal CVP remains >8, goal Uo >40/hr. With this
   Cr should be able to tolerate diuresis if needed.
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   Approach to blood pressure difficult balance given the number of
   various factors that may be influencing it. Goal CVP >8 as above.
   Cautious diuresis as above.
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   Continuing home meds.
 DIABETES MELLITUS (DM), TYPE II
   Transitioning to SC regimen from drip today. Will follow.
 DYSPHAGIA
   Tube feeds via G tube
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion, Blood sugar well controlled
   Lines:
   Multi Lumen - [**2187-3-2**] 01:08 PM
   18 Gauge - [**2187-3-2**] 01:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Wife [**Telephone/Fax (1) 286**]; daughter ([**Name (NI) 233**] [**Name (NI) 234**])
   3[**Telephone/Fax (1) 287**]
   Code status: Full code
   Disposition:

2187-03-04 11:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure/Septic Shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Received IVFs overnight for low urine output and hypotension
   - Remains poorly responsive
   History obtained from Patient
   Patient unable to provide history: Unresponsive
   Allergies:
   Ipratropium
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2187-3-3**] 12:45 PM
   Piperacillin - [**2187-3-4**] 12:00 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Med List Reviewed
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-3-4**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 82 (68 - 96) bpm
   BP: 95/70(74){82/51(58) - 127/77(90)} mmHg
   RR: 25 (12 - 34) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.1 kg (admission): 94.1 kg
   Height: 70 Inch
   CVP: 14 (6 - 16)mmHg
   SvO2: 78%
   Total In:
                                                                  7,230 mL
                                                                  1,433 mL
   PO:
   TF:
   IVF:
                                                                  7,000 mL
                                                                  1,353 mL
   Blood products:
   Total out:
                                                                    563 mL
                                                                    325 mL
   Urine:
                                                                    463 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,667 mL
                                                                  1,108 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 402 (390 - 450) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 11 cmH2O
   SpO2: 90%
   ABG: ///23/
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: Intubated, poorly responsive
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   233 K/uL
   83 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.9 mEq/L
   37 mg/dL
   112 mEq/L
   140 mEq/L
   29.5 %
   16.5 K/uL
        [image002.jpg]
                             [**2187-3-2**]  01:08 PM
                             [**2187-3-2**]  07:37 PM
                             [**2187-3-2**]  11:27 PM
                             [**2187-3-3**]  04:32 AM
                             [**2187-3-3**]  05:50 PM
                             [**2187-3-3**]  10:57 PM
                             [**2187-3-4**]  05:00 AM
   WBC
   18.0
   17.4
   16.5
   Hct
   30.6
   31.7
   31.9
   29.7
   29.5
   Plt
   259
   227
   233
   Cr
   1.3
   1.2
   1.1
   1.1
   1.1
   TropT
   1.60
   1.56
   1.42
   TCO2
   24
   Glucose
   [**Telephone/Fax (2) 285**]
   Other labs: PT / PTT / INR:18.2/67.7/1.7, CK / CKMB /
   Troponin-T:85/12/1.42, ALT / AST:[**1-29**], Alk Phos / T Bili:76/0.6,
   Differential-Neuts:94.6 %, Band:Units: %
   Range: 0-5 %, Lymph:4.3 %, Mono:1.0 %, Eos:0.1 %, Lactic Acid:2.3
   mmol/L, Albumin:2.4 g/dL, LDH:222 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
   1)  RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): likely secondary to
   pneumonia
        -now likely has superimposed volume overload secondary to
   resuscitation from IVFs
       Plan: Continue Zosyn/Vanc
   2)  Pneumonia: Continue Zosyn/Vanc
   3)  Septic Shock:  Now off vasopressors but still relatively
   hypotensive and required a lot of fluid
        - Check venous-arterial pCO2 difference, ECHO
        - Will place arterial line
   4) CAD/?NSTEMI
       Plan: Will discontinue heparin
                Continue ASA, statin
   5) Relative adrenal insufficiency: cortisol 10.5 -> :  Low baseline and
   still having hypotension
given that, will continue steroids for now and
   wean rapidly when pressure improves.
   6)  Anemia: Will transfuse to keep hct 28-30%
   7)  DM - insulin drip
   Addendum: After arterial line placed, blood pressure much better 120/70
   and not correlating with cuff which is [**Location (un) 308**] 90/60.  Also,
   venous-arterial PCO2 difference is 9 thus indicating decreased cardiac
   output.  Given this information, current picture is more consistent
   with resuscitated sepsis now with fluid overload (known decreased
   cardiac function).  As blood pressure normal per arterial line, will
   give lasix and try to get fluid off.  Holding off on inotropes at this
   time because of NSTEMI and no signs of hypo-perfusion at this point
   (kidney function normal, lactate normal).  If blood pressure continues
   to remain normal, will wean steroids.
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Elevated troponin on admission to 1.6
 HYPERNATREMIA (HIGH SODIUM)
 ANEMIA, OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Coagulopathy
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 DIABETES MELLITUS (DM), TYPE II
 DYSPHAGIA
   Tube feeds via G tube
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-3-2**] 01:08 PM
   18 Gauge - [**2187-3-2**] 01:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2187-03-05 07:46:00 Physician Resident Progress Note
Chief Complaint: hypotension/AMS
   24 Hour Events:
 ARTERIAL LINE - START [**2187-3-4**] 02:00 PM
 ARTERIAL LINE - STOP [**2187-3-4**] 11:00 PM
   A-line placed; revealed BPs 20 pts higher than cuff showed; few hours
   later pt dislodged line
   Diuresing: got 120 mg IV lasix in the evening (40+80)
   Restarted heparin drip because of bump in troponins
   D/c'ed steroids
   This AM went into afib with RVR, responded to 5mg IV metoprolol
   Allergies:
   Ipratropium
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2187-3-4**] 12:00 AM
   Vancomycin - [**2187-3-4**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-5**] 05:48 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-3-5**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96
   HR: 76 (67 - 112) bpm
   BP: 89/57(64){89/57(64) - 111/80(88)} mmHg
   RR: 19 (6 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.8 kg (admission): 94.1 kg
   Height: 70 Inch
    CVP: 5 (4 - 16)mmHg
   Total In:
                                                                  2,327 mL
                                                                    260 mL
   PO:
   TF:
                                                                    106 mL
   IVF:
                                                                  2,081 mL
                                                                    260 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                  1,210 mL
   Urine:
                                                                  1,305 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,022 mL
                                                                   -950 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 390 (386 - 450) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.42/33/72/26/-1
   Ve: 6.5 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, R TLC IJ
   cath in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: diffusely)
   Extremities: Right: 2+, Left: 2+, anasarca
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   250 K/uL
   10.0 g/dL
   206 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   41 mg/dL
   112 mEq/L
   145 mEq/L
   30.6 %
   13.4 K/uL
        [image002.jpg]
                             [**2187-3-2**]  07:37 PM
                             [**2187-3-2**]  11:27 PM
                             [**2187-3-3**]  04:32 AM
                             [**2187-3-3**]  05:50 PM
                             [**2187-3-3**]  10:57 PM
                             [**2187-3-4**]  05:00 AM
                             [**2187-3-4**]  01:58 PM
                             [**2187-3-4**]  03:01 PM
                             [**2187-3-4**]  11:39 PM
                             [**2187-3-5**]  04:46 AM
   WBC
   17.4
   16.5
   13.4
   Hct
   31.7
   31.9
   29.7
   29.5
   30.6
   Plt
   227
   233
   250
   Cr
   1.2
   1.1
   1.1
   1.1
   1.5
   TropT
   1.56
   1.42
   1.20
   1.36
   1.46
   TCO2
   24
   22
   Glucose
   159
   82
   83
   206
   Other labs: PT / PTT / INR:18.2/80.4/1.7, CK / CKMB /
   Troponin-T:43/10/1.46, ALT / AST:[**1-29**], Alk Phos / T Bili:76/0.6,
   Differential-Neuts:94.6 %, Band:Units: %
   Range: 0-5 %, Lymph:4.3 %, Mono:1.0 %, Eos:0.1 %, Lactic Acid:2.3
   mmol/L, Albumin:2.4 g/dL, LDH:222 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.9 mg/dL
   Imaging: CXR [**3-4**]
   One view.  Comparison with the previous study done [**2187-12-2**].  Continued
   evidence of bilateral pulmonary infiltrates and pleural effusions.  The
   heart
   appears enlarged, as before.  Mediastinal structures are unchanged.  An
   endotracheal tube and right internal jugular catheter remain in place
   IMPRESSION:  No significant change
   Microbiology: CLOSTRIDIUM DIFFICILE TOXIN ASSAY (Final [**2187-3-5**]):
         FECES NEGATIVE FOR C. DIFFICILE TOXIN BY EIA.
              (Reference Range-Negative).
   x2
   [**3-2**] Bcx Pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -- despite RSBI of 40, cannot extubate because no improvement in mental
   status even with no sedation
   -- continue vanc and zosyn for presumed aspiration pneumonia
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -- see above,, pt essentially unresponsive while off sedation
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -- Elevated troponin on admission to 1.6, demand ischemia vs. NSTEMI
   -- continue heparin gtt
   -- IV metoprolol this AM, repeat prn. Continue daily ASA, statin
   -- trend CE
s, repeat set at 5PM. Not an interventional candidate
 HYPERNATREMIA (HIGH SODIUM)
   -- Free water Flush G tube w/ 200 ml water q8h
 ATRIAL FIBRILLATION
   -- responded to IV metoprolol 5mg, will continue to dose as needed for
   rate control
   -- not an anticoagulation candidate
 ANEMIA, OTHER
   -- maintain HCT ~ 30 given signs of end organ ischemia
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Coagulopathy
 likely nutritional in etiology
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   ATN most likely but prerenal also a possibility
   n        check urine lytes
   n        hydrating with free water via the gut
   n        caution with diuresis
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   --  f/u echocardiogram today
   --  Cautious diuresis as above
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   -- Donepezil 5 mg PO HS
   -- Memantine *NF* 10 mg Oral [**Hospital1 **]
 DIABETES MELLITUS (DM), TYPE II
   -- uptitrate glargine to 34 (from 30) units qPM, continue HISS
   -- HISS
 DYSPHAGIA
   -- Tube feeds via G tube
   ICU Care
   Nutrition:
   Tube feeds per nutrition recs
   Glycemic Control:
   Adjusting insulin as above
   Lines:
   Multi Lumen - [**2187-3-2**] 01:08 PM
   Prophylaxis:
   DVT: systemic anticoagulation
   Stress ulcer: PPI
   VAP:  HOB elevation, mouth hygeine
   Comments:  restraints (2 pt) while intubated
   Communication: Wife [**Telephone/Fax (1) 286**]; daughter ([**Name (NI) 233**] [**Name (NI) 234**])
   [**Telephone/Fax (1) 363**]
   Code status: Full code
   Disposition: ICU care

2187-03-05 09:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hypotensive (areterial line out) and episode of acute SOB this am. Incr
   HR
   24 Hour Events:
 ARTERIAL LINE - START [**2187-3-4**] 02:00 PM
 ARTERIAL LINE - STOP [**2187-3-4**] 11:00 PM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Ipratropium
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2187-3-4**] 12:00 AM
   Vancomycin - [**2187-3-4**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-5**] 05:48 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Metoprolol - [**2187-3-5**] 08:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-3-5**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96
   HR: 76 (67 - 112) bpm
   BP: 149/91(64){89/57(64) - 149/91(88)} mmHg
   RR: 19 (6 - 32) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 104.8 kg (admission): 94.1 kg
   Height: 70 Inch
   CVP: 5 (4 - 16)mmHg
   Total In:
                                                                  2,327 mL
                                                                    287 mL
   PO:
   TF:
                                                                    106 mL
   IVF:
                                                                  2,081 mL
                                                                    287 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                  1,450 mL
   Urine:
                                                                  1,305 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,022 mL
                                                                 -1,163 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 390 (386 - 420) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.42/33/72/26/-1
   Ve: 6.5 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal, Absent), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, PEG
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Cool
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Tone: Normal
   Labs / Radiology
   10.0 g/dL
   250 K/uL
   206 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   41 mg/dL
   112 mEq/L
   145 mEq/L
   30.6 %
   13.4 K/uL
        [image002.jpg]
                             [**2187-3-2**]  07:37 PM
                             [**2187-3-2**]  11:27 PM
                             [**2187-3-3**]  04:32 AM
                             [**2187-3-3**]  05:50 PM
                             [**2187-3-3**]  10:57 PM
                             [**2187-3-4**]  05:00 AM
                             [**2187-3-4**]  01:58 PM
                             [**2187-3-4**]  03:01 PM
                             [**2187-3-4**]  11:39 PM
                             [**2187-3-5**]  04:46 AM
   WBC
   17.4
   16.5
   13.4
   Hct
   31.7
   31.9
   29.7
   29.5
   30.6
   Plt
   227
   233
   250
   Cr
   1.2
   1.1
   1.1
   1.1
   1.5
   TropT
   1.56
   1.42
   1.20
   1.36
   1.46
   TCO2
   24
   22
   Glucose
   159
   82
   83
   206
   Other labs: PT / PTT / INR:18.2/80.4/1.7, CK / CKMB /
   Troponin-T:43/10/1.46, ALT / AST:[**1-29**], Alk Phos / T Bili:76/0.6,
   Differential-Neuts:94.6 %, Band:Units: %
   Range: 0-5 %, Lymph:4.3 %, Mono:1.0 %, Eos:0.1 %, Lactic Acid:2.3
   mmol/L, Albumin:2.4 g/dL, LDH:222 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) RSBI good but episode of
   incr RR this am on PSV 5/5 suggesting incr pulm edema. Unlikely to be
   able to protect his airway as obtunded w/o sedation for 2 days
 ALTERED MENTAL STATUS (NOT DELIRIUM) remains obtunded
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Elevated troponin on admission to 1.6 - remains on heparin gtt, ASA.
   Suspect he has ongoing ischemia and is not a candidate for
   intervention. Remains on beta blocker
 HYPERNATREMIA (HIGH SODIUM) - corrected
 ANEMIA, OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Coagulopathy
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE) - creat is rising. UO has been adequate. Will check UNa and UA
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC -
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT) -
 DIABETES MELLITUS (DM), TYPE II - glu > 200. Will incr SSI
 DYSPHAGIA
   Tube feeds via G tube
   Code status - currently full but prognosis extremely poor
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2187-3-2**] 01:08 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :
   Total time spent:  45
   Patient is critically ill

2187-03-06 07:25:00 Physician Resident Progress Note
Chief Complaint: fever, PNA, hypotension
   24 Hour Events:
 EKG - At [**2187-3-5**] 08:30 AM
 EKG - At [**2187-3-5**] 08:56 AM
   Continued on heparin gtt
   Troponins continue to climb
   FENa = 5.3%, +Hyaline casts in urine
   TTE done--Two large thrombi are seen in the left ventricle.
   Family contact[**Name (NI) **] re: ventricular thrombi and made patient DNR
   Patient continues on heparin gtt
   Insulin increased
   Tube feeds held after MN for possible extubation
   Small amount of brown stool mixed with bright red blood this AM.
   Allergies:
   Ipratropium
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2187-3-4**] 12:00 AM
   Vancomycin - [**2187-3-5**] 09:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-6**] 04:23 AM
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2187-3-5**] 08:00 AM
   Metoprolol - [**2187-3-5**] 01:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-3-6**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.7
C (96.3
   HR: 81 (63 - 85) bpm
   BP: 103/62(73){81/50(58) - 149/91(80)} mmHg
   RR: 25 (0 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.2 kg (admission): 94.1 kg
   Height: 70 Inch
    CVP: -2 (-3 - 136)mmHg
   Total In:
                                                                  1,973 mL
                                                                    237 mL
   PO:
   TF:
                                                                    199 mL
                                                                     51 mL
   IVF:
                                                                  1,404 mL
                                                                    187 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    325 mL
   Urine:
                                                                  2,200 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -227 mL
                                                                    -88 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 364 (364 - 426) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: intubated, tracks movements
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Diminished: b/l at based)
   Abdominal: Soft, Non-tender, Bowel sounds present, G tube in place
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   275 K/uL
   10.3 g/dL
   124 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.0 mEq/L
   40 mg/dL
   116 mEq/L
   149 mEq/L
   30.9 %
   11.9 K/uL
        [image002.jpg]
                             [**2187-3-3**]  04:32 AM
                             [**2187-3-3**]  05:50 PM
                             [**2187-3-3**]  10:57 PM
                             [**2187-3-4**]  05:00 AM
                             [**2187-3-4**]  01:58 PM
                             [**2187-3-4**]  03:01 PM
                             [**2187-3-4**]  11:39 PM
                             [**2187-3-5**]  04:46 AM
                             [**2187-3-5**]  05:56 PM
                             [**2187-3-6**]  04:28 AM
   WBC
   17.4
   16.5
   13.4
   11.9
   Hct
   31.9
   29.7
   29.5
   30.6
   30.9
   Plt
   227
   233
   250
   275
   Cr
   1.2
   1.1
   1.1
   1.1
   1.5
   1.6
   TropT
   1.42
   1.20
   1.36
   1.46
   1.55
   1.85
   TCO2
   22
   Glucose
   159
   82
   83
   206
   124
   Other labs: PT / PTT / INR:18.2/118.3/1.7, CK / CKMB /
   Troponin-T:37/7/1.85, ALT / AST:[**1-29**], Alk Phos / T Bili:76/0.6,
   Differential-Neuts:94.6 %, Band:Units: %
   Range: 0-5 %, Lymph:4.3 %, Mono:1.0 %, Eos:0.1 %, Lactic Acid:2.3
   mmol/L, Albumin:2.4 g/dL, LDH:222 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.6 mg/dL
   Imaging: [**3-5**] ECHO
   The left atrium is elongated. Left ventricular wall thicknesses and
   cavity size are normal. Left ventricular wall thicknesses are normal.
   The left ventricular cavity is moderately dilated. There is severe
   global left ventricular hypokinesis (LVEF = 15 %). Two large thrombi
   are seen in the left ventricle. One appears to be adherent to the
   inferior wall and apex and measures 2.9cm x 2cm. The other is near the
   anterior apex and measures approximately 1.5cm x 1.7cm. Neither appears
   to be mobile. The age of the thrombi cannot be determined by
   echocardiogram. There is no ventricular septal defect. Right
   ventricular chamber size and free wall motion are normal. The aortic
   root is mildly dilated at the sinus level. The aortic valve leaflets
   (3) are mildly thickened but aortic stenosis is not present. No aortic
   regurgitation is seen. The mitral valve leaflets are mildly thickened.
   There is no mitral valve prolapse. Mild (1+) mitral regurgitation is
   seen. There is mild pulmonary artery systolic hypertension. There is a
   trivial/physiologic pericardial effusion.
   IMPRESSION: Dilated, severely hypokinetic left ventricle with two large
   left ventricular thrombi. Mild mitral regurgitation and pulmonary
   artery systolic hypertension.
   Microbiology: C Diff - x 3
   .
   RESPIRATORY CULTURE (Final [**2187-3-4**]):
   MODERATE GROWTH OROPHARYNGEAL FLORA.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   .
   [**2187-3-2**] 9:35 am URINE     Site: CLEAN CATCH
                               **FINAL REPORT [**2187-3-3**]**
      URINE CULTURE (Final [**2187-3-3**]):
         MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT WITH SKIN
   AND/OR GENITAL CONTAMINATION.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 etiology Is presumably
   aspiration PNA (vanc/zosyn begun [**3-3**])
   - RSBI was 73 this AM, off sedation and more alert. Will plan to
   extubate after d/w and arrival of family
   - Vanc level this AM supratherapeutic, hold dose and change to q48h
   with levels checks prior to dose
   - Continue zosyn
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   - Much improved. Tracks intern and follows simple commands
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE) - Elevated
   troponin on admission to 1.6
   - now s/p >48h of heparin gtt, will d/c
   - continue ASA and statin
   - added low dose standing metoprolol as tolerated
 HYPERNATREMIA (HIGH SODIUM)
   - worsening. Will give D5W for now and increase free water flushes if
   continues to worsen
   - check PM lytes
 BRBPR this AM
   - HCTs stable, d/c heparin gtt as above
   - check PM HCT
 LV THROMUS
 multiple. found on echo [**3-5**]. Will likely be untreatable
   in long term.
   - pt is not a long term anticoagulation candidate, and heparin gtt
   contraindication given BRBPR
   - continue ASA, no coumadin
   -  this diagnosis would make a code situation with chest compressions
   essentially contraindicated. Family aware and has made patient DNR
 RENAL FAILURE
 ACUTE ON CHRONIC
   - likely ischemic ATN per urine lytes and FeNA
   - trend Cr
   - avoid diuresis in the short term
 H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   - LV function is even worse on recent echo, down to 10-15%
   - continue ASA, add BB as tolerated as above
 PAF
 one episode yesterday, since then has been in sinus rhythm
   - starting standing BB today, daily ASA
   - monitor on tele
 Dirty U/A
   - no culture data available. Pt already on vanc and zosyn.
   - change Foley today, send U/A and culture after catheter is changed
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   - continue alzheimers meds
 DIABETES MELLITUS (DM), TYPE II
   - better glucose control with increase in glargine
   - anticipate worsening of FSGs with D5W to treat hypernatremia,
   continue Insulin SS
 DYSPHAGIA
   Tube feeds via G tube
   ICU Care
   Nutrition:
   Comments: tube feeds, currently being held in anticipation of possible
   extubation
   Glycemic Control:  standing glargine and regular insulin sliding scale
   Lines:
   Multi Lumen - [**2187-3-2**] 01:08 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: d/c heparin gtt, begin heparin sQ tid
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU care

2187-03-06 09:44:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2187-3-5**] 08:30 AM
 EKG - At [**2187-3-5**] 08:56 AM
   Echo - severe LV hypokinesis
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Ipratropium
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2187-3-4**] 12:00 AM
   Vancomycin - [**2187-3-5**] 09:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-6**] 04:23 AM
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Metoprolol - [**2187-3-5**] 01:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2187-3-6**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 95 (63 - 95) bpm
   BP: 96/57(67){81/50(58) - 109/72(77)} mmHg
   RR: 22 (0 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.8 kg (admission): 94.1 kg
   Height: 70 Inch
   CVP: 9 (-3 - 136)mmHg
   Total In:
                                                                  1,973 mL
                                                                    476 mL
   PO:
   TF:
                                                                    199 mL
                                                                     51 mL
   IVF:
                                                                  1,404 mL
                                                                    326 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    365 mL
   Urine:
                                                                  2,200 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -227 mL
                                                                    111 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 346 (346 - 426) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed, Rash:
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   275 K/uL
   124 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.0 mEq/L
   40 mg/dL
   116 mEq/L
   149 mEq/L
   30.9 %
   11.9 K/uL
        [image002.jpg]
                             [**2187-3-3**]  04:32 AM
                             [**2187-3-3**]  05:50 PM
                             [**2187-3-3**]  10:57 PM
                             [**2187-3-4**]  05:00 AM
                             [**2187-3-4**]  01:58 PM
                             [**2187-3-4**]  03:01 PM
                             [**2187-3-4**]  11:39 PM
                             [**2187-3-5**]  04:46 AM
                             [**2187-3-5**]  05:56 PM
                             [**2187-3-6**]  04:28 AM
   WBC
   17.4
   16.5
   13.4
   11.9
   Hct
   31.9
   29.7
   29.5
   30.6
   30.9
   Plt
   227
   233
   250
   275
   Cr
   1.2
   1.1
   1.1
   1.1
   1.5
   1.6
   TropT
   1.42
   1.20
   1.36
   1.46
   1.55
   1.85
   TCO2
   22
   Glucose
   159
   82
   83
   206
   124
   Other labs: PT / PTT / INR:18.2/118.3/1.7, CK / CKMB /
   Troponin-T:37/7/1.85, ALT / AST:[**1-29**], Alk Phos / T Bili:76/0.6,
   Differential-Neuts:94.6 %, Band:Units: %
   Range: 0-5 %, Lymph:4.3 %, Mono:1.0 %, Eos:0.1 %, Lactic Acid:2.3
   mmol/L, Albumin:2.4 g/dL, LDH:222 IU/L, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) - RSBI good and secretions
   down. Extubate after family arrives
 ALTERED MENTAL STATUS (NOT DELIRIUM) - much improved. Following
   commands
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Elevated troponin on admission to 1.6 - continuing mild ischemia
   despite heparin.  Echo substantially changed from 3 mos ago. Will d/c
   heparin
 HYPERNATREMIA (HIGH SODIUM) - increasing free water IV and po (after
   extubation)
 ANEMIA, OTHER
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Coagulopathy
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC - profound chronic
   systolic CHF.  Will start afterload reduction. Not a candidate for beta
   blocker. Apparently has had substantial cardiac event(s)
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 DIABETES MELLITUS (DM), TYPE II - SSI
 DYSPHAGIA
   Tube feeds via G tube
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2187-3-2**] 01:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:  40
   Patient is critically ill

2187-03-07 06:50:00 Physician Resident Progress Note
Chief Complaint: aspiration PNA
   24 Hour Events:
   Not extubated as all family not yet present, family meeting wednesday
   heparin gtt stopped
   was 1.6L positive at midnight so given 80IV lasix
   Allergies:
   Ipratropium
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2187-3-5**] 09:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-7**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2187-3-6**] 10:08 AM
   Heparin Sodium (Prophylaxis) - [**2187-3-6**] 02:12 PM
   Furosemide (Lasix) - [**2187-3-7**] 03:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-3-7**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 70 (58 - 95) bpm
   BP: 95/63(70){85/47(60) - 130/90(85)} mmHg
   RR: 19 (16 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.8 kg (admission): 94.1 kg
   Height: 70 Inch
    CVP: 7 (1 - 40)mmHg
   Total In:
                                                                  2,589 mL
                                                                    267 mL
   PO:
   TF:
                                                                     51 mL
   IVF:
                                                                  1,989 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                    942 mL
                                                                    775 mL
   Urine:
                                                                    942 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,647 mL
                                                                   -508 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 415 (340 - 415) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: elderly, ill appearing
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Absent :
   at bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, G tube in place
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   248 K/uL
   9.8 g/dL
   118 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.3 mEq/L
   31 mg/dL
   114 mEq/L
   145 mEq/L
   29.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2187-3-3**]  10:57 PM
                             [**2187-3-4**]  05:00 AM
                             [**2187-3-4**]  01:58 PM
                             [**2187-3-4**]  03:01 PM
                             [**2187-3-4**]  11:39 PM
                             [**2187-3-5**]  04:46 AM
                             [**2187-3-5**]  05:56 PM
                             [**2187-3-6**]  04:28 AM
                             [**2187-3-6**]  06:05 PM
                             [**2187-3-7**]  02:54 AM
   WBC
   16.5
   13.4
   11.9
   12.4
   10.1
   Hct
   29.5
   30.6
   30.9
   31.2
   29.1
   Plt
   233
   250
   275
   294
   248
   Cr
   1.1
   1.1
   1.5
   1.6
   1.4
   1.3
   TropT
   1.20
   1.36
   1.46
   1.55
   1.85
   TCO2
   22
   Glucose
   82
   83
   [**Telephone/Fax (3) 439**]18
   Other labs: PT / PTT / INR:18.2/118.3/1.7, CK / CKMB /
   Troponin-T:37/7/1.85, ALT / AST:[**1-29**], Alk Phos / T Bili:76/0.6,
   Differential-Neuts:83.4 %, Band:Units: %
   Range: 0-5 %, Lymph:9.9 %, Mono:3.9 %, Eos:2.7 %, Lactic Acid:2.3
   mmol/L, Albumin:2.4 g/dL, LDH:222 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 EF 10-15% on echo [**3-5**]
   -          was net + 1.6L at midnight, so given 80IV lasix with net
   -500cc since then
   -          would give additional 80IV lasix today, goal negative [**2-7**]
   liters. Check PM lytes
   -          continue BB, consider adding ACE-I such as captopril 6.25
   tid for afterload reduction
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   most likely etiology is aspiration PNA with contribution form CHF
   -          continue vanc/zosyn, f/u AM vanc trough
   -          RSBI was 73 this AM, again off sedation and remains alert.
   Will plan to extubate after arrival of entire family
   -          Diuresis as above
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Elevated troponin on admission to 1.6
   -          now s/p heparin gtt
   -          continue medical management with ASA, metoprolol, statin
   -          as renal failure resolves consider adding low dose afterload
   reducing [**Doctor Last Name **] such as captopril
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   LV thrombi
   -          unable to anticoagulate given contraindications. No long
   term treatment is available.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): FeNa >5%, lytes most
   c/w ATN from hypotension
   -          improving this AM
   -          trend Cr [**Hospital1 **], now diuresing aggressively so monitor closely
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   -          now approaching baseline creatinine
 Dirty U/A
   -          f/u culture from [**3-6**]. Associated U/A was dirty, also with
   yeast. Unclear if Foley was changed.
   -          Pt already on vanc and zosyn.
 HYPERNATREMIA (HIGH SODIUM)
   -          improved / resolved with D5W
   -          check PM lytes
 ANEMIA, OTHER
   -          Serial hematocrits stable, no further BRBPR after d/c of
   heparin gtt
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -          much improved
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   -          continue alzheimers meds
 DIABETES MELLITUS (DM), TYPE II
   -          sugars are well controlled, continue fixed and SS insulin
 DYSPHAGIA
   Tube feeds via G tube
   ICU Care
   Nutrition:
   Tube feeds being held in anticipation of extubation, restart afterwards
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled, Comments: fixed and SS insulin, values largely in 120-160s
   Lines:
   Multi Lumen - [**2187-3-2**] 01:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2187-03-07 10:51:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Family meeting - plan for extubation
   Allergies:
   Ipratropium
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2187-3-7**] 08:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-7**] 09:56 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-3-6**] 02:12 PM
   Furosemide (Lasix) - [**2187-3-7**] 03:05 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-3-7**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (96.9
   HR: 72 (58 - 100) bpm
   BP: 109/62(74){86/47(60) - 140/90(100)} mmHg
   RR: 22 (16 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.1 kg (admission): 94.1 kg
   Height: 70 Inch
   CVP: 15 (1 - 40)mmHg
   Total In:
                                                                  2,589 mL
                                                                    558 mL
   PO:
   TF:
                                                                     51 mL
   IVF:
                                                                  1,989 mL
                                                                    408 mL
   Blood products:
   Total out:
                                                                    942 mL
                                                                  2,065 mL
   Urine:
                                                                    942 mL
                                                                  2,065 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,647 mL
                                                                 -1,507 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 579 (340 - 579) mL
   PS : 5 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 5.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   248 K/uL
   118 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.3 mEq/L
   31 mg/dL
   114 mEq/L
   145 mEq/L
   29.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2187-3-3**]  10:57 PM
                             [**2187-3-4**]  05:00 AM
                             [**2187-3-4**]  01:58 PM
                             [**2187-3-4**]  03:01 PM
                             [**2187-3-4**]  11:39 PM
                             [**2187-3-5**]  04:46 AM
                             [**2187-3-5**]  05:56 PM
                             [**2187-3-6**]  04:28 AM
                             [**2187-3-6**]  06:05 PM
                             [**2187-3-7**]  02:54 AM
   WBC
   16.5
   13.4
   11.9
   12.4
   10.1
   Hct
   29.5
   30.6
   30.9
   31.2
   29.1
   Plt
   233
   250
   275
   294
   248
   Cr
   1.1
   1.1
   1.5
   1.6
   1.4
   1.3
   TropT
   1.20
   1.36
   1.46
   1.55
   1.85
   TCO2
   22
   Glucose
   82
   83
   [**Telephone/Fax (3) 439**]18
   Other labs: PT / PTT / INR:18.2/118.3/1.7, CK / CKMB /
   Troponin-T:37/7/1.85, ALT / AST:[**1-29**], Alk Phos / T Bili:76/0.6,
   Differential-Neuts:83.4 %, Band:Units: %
   Range: 0-5 %, Lymph:9.9 %, Mono:3.9 %, Eos:2.7 %, Lactic Acid:2.3
   mmol/L, Albumin:2.4 g/dL, LDH:222 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   most likely etiology is aspiration PNA plus CHF
 plan to extubate
   today but likelihood he will fail is high and long term prognosis very
   poor
 reintubation unlikely to change his course. Nevertheless can
   make some difference by treating his CHF aggressively
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE) - no obvious
   episodes of ischemia in last 2 days but remains unstable
   Elevated troponin on admission to 1.6
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   LV thrombi
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   FeNa >5%, lytes most c/w ATN from hypotension
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE) creat at baseline but starting lisinopril so will need to be
   watched carefully
 HYPERNATREMIA (HIGH SODIUM)
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC - still 12L positive LOS.
   Now responding better to lasix. Will continue aggressive diuresis in
   view of plan for extubation. Also starting ACE.
 ANEMIA, OTHER - stable
 ALTERED MENTAL STATUS (NOT DELIRIUM) - now at baseline off sedation
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 DIABETES MELLITUS (DM), TYPE II
 DYSPHAGIA
   Tube feeds via G tube
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-3-2**] 01:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : In ICU
   Total time spent: 40
   Critically ill

2187-03-08 07:20:00 Physician Resident Progress Note
Chief Complaint: Aspiration pneumonia
   24 Hour Events:
   -had worsening pulmonary edema with desats to mid-high 80%s,
   tachycardia to 110-120s, mild distress. Given 80mg IV Lasix, 2mg IV
   morphine, 0.5" nitropaste, and 5mg IV metoprolol with good effect.
   - also started on scopolamine patch for increased upper airway
   secretions.
   - AM captopril held for SBP 80s.
   Patient unable to provide history: Encephalopathy
   Allergies:
   Ipratropium
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2187-3-7**] 08:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-8**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2187-3-8**] 12:43 AM
   Morphine Sulfate - [**2187-3-8**] 01:00 AM
   Metoprolol - [**2187-3-8**] 01:06 AM
   Other medications:
   Vancomycin 1gIV q48 day 7, Zosyn 2.25g IV q6 day 7
   ASA 325 daily
   Lipitor
   Captopril 6.25 TID, Metoprolol 12.5 [**Hospital1 **]
   Citalopram
   Donepezil, Memantine
   Ferrous Sulfate
   Lansoprazole
   Heparin SQ
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-3-8**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.2
   HR: 73 (63 - 99) bpm
   BP: 113/58(70){87/26(54) - 159/94(107)} mmHg
   RR: 26 (17 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.1 kg (admission): 94.1 kg
   Height: 70 Inch
    CVP: 11 (10 - 11)mmHg
   Total In:
                                                                  1,418 mL
                                                                    487 mL
   PO:
   TF:
                                                                    127 mL
                                                                    235 mL
   IVF:
                                                                    791 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  4,985 mL
                                                                  1,450 mL
   Urine:
                                                                  4,985 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,567 mL
                                                                   -963 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 372 (372 - 670) mL
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: ///28/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: copious oral secretions
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : coarse bilaterally)
   Abdominal: Soft, Non-tender, G tube in place
   Extremities: Right: 1+, Left: 1+
   Skin:  Cool, anasarca
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, opens eyes to voice, ?squeeze hands to
   command
   Labs / Radiology
   364 K/uL
   10.9 g/dL
   154 mg/dL
   1.4 mg/dL
   28 mEq/L
   4.9 mEq/L
   25 mg/dL
   108 mEq/L
   145 mEq/L
   32.9 %
   17.1 K/uL
        [image002.jpg]
   Fingersticks 111-181 (181 at 6am today)
   Micro
   [**3-6**] urine yeast
   1/25,27,28 stool C diff negative
   [**3-2**] blood cx NGTD
   [**3-2**] sputum 4+ GPRs, 1+ GPC pains and chains; cx with mod OP flora,
   sparse GNRs
                             [**2187-3-4**]  01:58 PM
                             [**2187-3-4**]  03:01 PM
                             [**2187-3-4**]  11:39 PM
                             [**2187-3-5**]  04:46 AM
                             [**2187-3-5**]  05:56 PM
                             [**2187-3-6**]  04:28 AM
                             [**2187-3-6**]  06:05 PM
                             [**2187-3-7**]  02:54 AM
                             [**2187-3-7**]  09:01 PM
                             [**2187-3-8**]  04:12 AM
   WBC
   13.4
   11.9
   12.4
   10.1
   17.1
   Hct
   30.6
   30.9
   31.2
   29.1
   32.9
   Plt
   [**Telephone/Fax (3) 502**]48
   364
   Cr
   1.5
   1.6
   1.4
   1.3
   1.4
   1.4
   TropT
   1.36
   1.46
   1.55
   1.85
   TCO2
   22
   Glucose
   [**Telephone/Fax (3) 439**]18
   112
   154
   Other labs: PT / PTT / INR:18.2/118.3/1.7, CK / CKMB /
   Troponin-T:37/7/1.85, ALT / AST:[**1-29**], Alk Phos / T Bili:76/0.6,
   Differential-Neuts:83.4 %, Band:Units: %
   Range: 0-5 %, Lymph:9.9 %, Mono:3.9 %, Eos:2.7 %, Lactic Acid:2.3
   mmol/L, Albumin:2.4 g/dL, LDH:222 IU/L, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 Leukocytosis
   Afebrile, but concerning for worsening infection. DDx broad includes
   worsened aspiration pna, UTI, line infection. No diarrhea to suggest C.
   diff
   -          Holding off on cultures pending family meeting regarding
   goals of care, continue vancomycin and Zosyn for now
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 EF 10-15% on echo [**3-5**]
   -          Continue diuresis as still fluid overloaded. Diuresed well
   to 80mg IV lasix last evening, repeat this AM. Goal net negative [**2-7**]
   liters today. Check electrolytes in PM.
   -          Continue BB, continue ACEI as tolerated by BP
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   most likely etiology is aspiration PNA with contribution form CHF
   -          Continue vancomycin and zosyn
   -          Contiue scopolamine to reduce oral secretions, suctioning as
   needed
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Elevated troponin on admission to 1.6
   -          now s/p heparin gtt
   -          continue medical management with ASA, metoprolol, statin
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   LV thrombi
   -          unable to anticoagulate given contraindications. No long
   term treatment is available.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): FeNa >5%, lytes most
   c/w ATN from hypotension. Has baseline CRI with Cr of 1.1-1.2
   -          Cr slightly up to 1.4 from 1.3 yesterday, may be secondary
   to diuresis or ACE effect will follow for now
 HYPERNATREMIA (HIGH SODIUM)
   -          improved / resolved with D5W
   -          check PM lytes
 ANEMIA, OTHER
   -          Serial hematocrits stable, no further BRBPR after d/c of
   heparin gtt
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -          Improved, stable
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   -          continue donepezil and memantine
 DIABETES MELLITUS (DM), TYPE II
   -          continue glargine and humalog
 DYSPHAGIA
   Tube feeds via G tube
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2187-3-8**] 03:55 AM 35 mL/hour
   Glycemic Control:  Comments: titrate glargine, humalog
   Lines:
   Multi Lumen - [**2187-3-2**] 01:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication:  with family
   Code status: DNR / DNI, will discuss goals of care with family
   Disposition: ICU for now

2187-03-08 11:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated. Requiring frequent suctioning
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Ipratropium
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2187-3-7**] 08:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-8**] 10:04 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2187-3-8**] 12:43 AM
   Morphine Sulfate - [**2187-3-8**] 01:00 AM
   Metoprolol - [**2187-3-8**] 01:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Respiratory: Dyspnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2187-3-8**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 70 (63 - 99) bpm
   BP: 120/68(79){87/26(54) - 159/94(107)} mmHg
   RR: 26 (17 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.1 kg (admission): 94.1 kg
   Height: 70 Inch
   CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  1,418 mL
                                                                    761 mL
   PO:
   TF:
                                                                    127 mL
                                                                    363 mL
   IVF:
                                                                    791 mL
                                                                    308 mL
   Blood products:
   Total out:
                                                                  4,985 mL
                                                                  1,970 mL
   Urine:
                                                                  4,985 mL
                                                                  1,970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,567 mL
                                                                 -1,209 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 372 (372 - 670) mL
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///28/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   364 K/uL
   154 mg/dL
   1.4 mg/dL
   28 mEq/L
   4.9 mEq/L
   25 mg/dL
   108 mEq/L
   145 mEq/L
   32.9 %
   17.1 K/uL
        [image002.jpg]
                             [**2187-3-4**]  01:58 PM
                             [**2187-3-4**]  03:01 PM
                             [**2187-3-4**]  11:39 PM
                             [**2187-3-5**]  04:46 AM
                             [**2187-3-5**]  05:56 PM
                             [**2187-3-6**]  04:28 AM
                             [**2187-3-6**]  06:05 PM
                             [**2187-3-7**]  02:54 AM
                             [**2187-3-7**]  09:01 PM
                             [**2187-3-8**]  04:12 AM
   WBC
   13.4
   11.9
   12.4
   10.1
   17.1
   Hct
   30.6
   30.9
   31.2
   29.1
   32.9
   Plt
   [**Telephone/Fax (3) 502**]48
   364
   Cr
   1.5
   1.6
   1.4
   1.3
   1.4
   1.4
   TropT
   1.36
   1.46
   1.55
   1.85
   TCO2
   22
   Glucose
   [**Telephone/Fax (3) 439**]18
   112
   154
   Other labs: PT / PTT / INR:18.2/118.3/1.7, CK / CKMB /
   Troponin-T:37/7/1.85, ALT / AST:[**1-29**], Alk Phos / T Bili:76/0.6,
   Differential-Neuts:87.7 %, Band:Units: %
   Range: 0-5 %, Lymph:6.7 %, Mono:3.2 %, Eos:2.2 %, Lactic Acid:2.3
   mmol/L, Albumin:2.4 g/dL, LDH:222 IU/L, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE) CHF
   Elevated troponin on admission to 1.6 - no obvious ischemic episodes.
   Continuing to diurese. Secretions remain copious requiring frequent
   suctioning. Will try scopalamine patch
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   LV thrombi
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   FeNa >5%, lytes most c/w ATN from hypotension - urine out put good
 HYPERNATREMIA (HIGH SODIUM) will monitor during diuresis
 ALTERED MENTAL STATUS (NOT DELIRIUM) at baseline
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ANEMIA, OTHER
 DIABETES MELLITUS (DM), TYPE II - SSI
 DYSPHAGIA
   Tube feeds via G tube
   Prognosis remains poor. Family is aware and he will not be reintubated.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2187-3-8**] 03:55 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-3-2**] 01:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU
   Total time spent: 30

2187-03-09 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Diuresed with lasix
   Daughter came by--initially asking him to be reintubated to increase
   his comfort; now agrees not to reintubate him.  Would like him to get
   morphine if he is not comfortable (received 1mg o/n)
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Ipratropium
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2187-3-7**] 08:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-9**] 04:00 AM
   Other medications:
   Vancomycin 1gIV q48 day 8, Zosyn 2.25g IV q6 day 8
   ASA 325 daily
   Lipitor
   Captopril 6.25 TID, Metoprolol 12.5 [**Hospital1 **]
   Citalopram
   Donepezil, Memantine
   Ferrous Sulfate
   Lansoprazole
   Heparin SQ
   Flowsheet Data as of  [**2187-3-9**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 67 (63 - 86) bpm
   BP: 94/47(58){84/46(55) - 128/75(84)} mmHg
   RR: 19 (11 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.1 kg (admission): 94.1 kg
   Height: 70 Inch
    Telemetry: PVCs, short runs of NSVT
   Total In:
                                                                  1,723 mL
                                                                    544 mL
   PO:
   TF:
                                                                    853 mL
                                                                    335 mL
   IVF:
                                                                    600 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  3,490 mL
                                                                    600 mL
   Urine:
                                                                  3,490 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,767 mL
                                                                    -56 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100% on 15L facemask FiO2 70%
   ABG: ///33/
   Physical Examination
   General Appearance: Pale
   Neck: Minimal erythema around exit site LIJ
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral bases, No(t)
   Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, anasarca
   Skin:  Cool
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   355 K/uL
   10.1 g/dL
   190 mg/dL
   1.3 mg/dL
   33 mEq/L
   4.2 mEq/L
   24 mg/dL
   107 mEq/L
   143 mEq/L
   30.1 %
   10.5 K/uL
        [image002.jpg]
   Fingersticks: 113-206
   Micro
   [**3-6**] urine yeast
   1/25,27,28 stool C diff negative
   [**3-2**] blood cx NGTD
   [**3-2**] sputum 4+ GPRs, 1+ GPC pains and chains; cx with mod OP flora,
   sparse GNRs
                             [**2187-3-4**]  03:01 PM
                             [**2187-3-4**]  11:39 PM
                             [**2187-3-5**]  04:46 AM
                             [**2187-3-5**]  05:56 PM
                             [**2187-3-6**]  04:28 AM
                             [**2187-3-6**]  06:05 PM
                             [**2187-3-7**]  02:54 AM
                             [**2187-3-7**]  09:01 PM
                             [**2187-3-8**]  04:12 AM
                             [**2187-3-9**]  04:19 AM
   WBC
   13.4
   11.9
   12.4
   10.1
   17.1
   10.5
   Hct
   30.6
   30.9
   31.2
   29.1
   32.9
   30.1
   Plt
   [**Telephone/Fax (2) 545**]
   Cr
   1.5
   1.6
   1.4
   1.3
   1.4
   1.4
   1.3
   TropT
   1.36
   1.46
   1.55
   1.85
   Glucose
   [**Telephone/Fax (3) 439**]18
   112
   154
   190
   Other labs: PT / PTT / INR:14.9/27.9/1.3, CK / CKMB /
   Troponin-T:37/7/1.85, ALT / AST:[**1-29**], Alk Phos / T Bili:76/0.6,
   Differential-Neuts:79.9 %, Band:Units: %
   Range: 0-5 %, Lymph:10.3 %, Mono:3.4 %, Eos:6.2 %, Lactic Acid:2.3
   mmol/L, Albumin:2.4 g/dL, LDH:222 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
 Leukocytosis
   WBC normalized today without specific intervention. Will follow.
   DDx broad includes worsened aspiration pna, UTI, line infection. No
   diarrhea to suggest C. diff
   -          Holding off on cultures pending family meeting regarding
   goals of care, continue vancomycin and Zosyn for now
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 EF 10-15% on echo [**3-5**]
   -          Continue diuresis as BP tolerated, still fluid overloaded.
   Goal net negative 1L today. Check electrolytes in PM.
   -          Continue BB, continue ACEI as tolerated by BP
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   most likely etiology is aspiration PNA with contribution form CHF
   -          Continue vancomycin and zosyn
   -          Contiue scopolamine to reduce oral secretions, suctioning as
   needed
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Elevated troponin on admission to 1.6
   -          now s/p heparin gtt
   -          continue medical management with ASA, metoprolol, statin
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   LV thrombi
   -          unable to anticoagulate given contraindications. No long
   term treatment is available.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): FeNa >5%, lytes most
   c/w ATN from hypotension. Has baseline CRI with Cr of 1.1-1.2
   -          Cr back to 1.3 today, will follow for now
 ANEMIA, OTHER
   -          Serial hematocrits stable, no further BRBPR after d/c of
   heparin gtt
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -          Improved, stable
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   -          continue donepezil and memantine
 DIABETES MELLITUS (DM), TYPE II
   -          continue glargine and humulog
 DYSPHAGIA
   Tube feeds via G tube
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2187-3-9**] 04:50 AM 55 mL/hour
   Glycemic Control:  Comments: continue glargine, humulog
   Lines:
   Multi Lumen - [**2187-3-2**] 01:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2187-03-09 11:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Family meeting - continue with comfort as primary priority
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Ipratropium
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2187-3-7**] 08:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-9**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea, copious secretions
   Flowsheet Data as of  [**2187-3-9**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 59 (59 - 86) bpm
   BP: 84/44(53){84/44(53) - 128/63(76)} mmHg
   RR: 10 (10 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.1 kg (admission): 94.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,723 mL
                                                                    840 mL
   PO:
             TF:
                                                                    853 mL
                                                                    586 mL
   IVF:
                                                                    600 mL
                                                                    205 mL
   Blood products:
   Total out:
                                                                  3,490 mL
                                                                    850 mL
   Urine:
                                                                  3,490 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,767 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///33/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   bases), (Breath Sounds: Diminished: )
   Abdominal: Soft
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Cool
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   355 K/uL
   190 mg/dL
   1.3 mg/dL
   33 mEq/L
   4.2 mEq/L
   24 mg/dL
   107 mEq/L
   143 mEq/L
   30.1 %
   10.5 K/uL
        [image002.jpg]
                             [**2187-3-4**]  03:01 PM
                             [**2187-3-4**]  11:39 PM
                             [**2187-3-5**]  04:46 AM
                             [**2187-3-5**]  05:56 PM
                             [**2187-3-6**]  04:28 AM
                             [**2187-3-6**]  06:05 PM
                             [**2187-3-7**]  02:54 AM
                             [**2187-3-7**]  09:01 PM
                             [**2187-3-8**]  04:12 AM
                             [**2187-3-9**]  04:19 AM
   WBC
   13.4
   11.9
   12.4
   10.1
   17.1
   10.5
   Hct
   30.6
   30.9
   31.2
   29.1
   32.9
   30.1
   Plt
   [**Telephone/Fax (3) 545**]
   Cr
   1.5
   1.6
   1.4
   1.3
   1.4
   1.4
   1.3
   TropT
   1.36
   1.46
   1.55
   1.85
   Glucose
   [**Telephone/Fax (3) 439**]18
   112
   154
   190
   Other labs: PT / PTT / INR:14.9/27.9/1.3, CK / CKMB /
   Troponin-T:37/7/1.85, ALT / AST:[**1-29**], Alk Phos / T Bili:76/0.6,
   Differential-Neuts:79.9 %, Band:Units: %
   Range: 0-5 %, Lymph:10.3 %, Mono:3.4 %, Eos:6.2 %, Lactic Acid:2.3
   mmol/L, Albumin:2.4 g/dL, LDH:222 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Elevated troponin on admission to 1.6
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   LV thrombi
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   FeNa >5%, lytes most c/w ATN from hypotension
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ANEMIA, OTHER
 DIABETES MELLITUS (DM), TYPE II
 DYSPHAGIA
   Tube feeds via G tube
   COMFORT - primarily goal at this point is comfort. Requiring
   intermittent suctioning.  Will give morphine as needed.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2187-3-9**] 09:18 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-3-2**] 01:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: 35

2187-03-10 07:16:00 Physician Resident Progress Note
Chief Complaint: aspiration PNA
   24 Hour Events:
   case management looking into having him return to [**Hospital3 **]
   SUBJ:
   appears alert, interacts but non-verbal. Follows commands
   Allergies:
   Ipratropium
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2187-3-9**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-10**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-3-10**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 64 (59 - 78) bpm
   BP: 119/70(81){84/44(53) - 119/70(81)} mmHg
   RR: 21 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.1 kg (admission): 94.1 kg
   Height: 70 Inch
             Total In:
                                                                  2,235 mL
                                                                    406 mL
   PO:
             TF:
                                                                  1,184 mL
                                                                    284 mL
   IVF:
                                                                    681 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                    290 mL
   Urine:
                                                                  1,285 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    950 mL
                                                                    116 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   General Appearance: elderly, ill-appearing
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), 2/6 SEM
   at LLSB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : crackles much improved, Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present, G tube in place
   Extremities: Anasarca
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   363 K/uL
   9.6 g/dL
   150 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.1 mEq/L
   23 mg/dL
   106 mEq/L
   144 mEq/L
   29.2 %
   9.6 K/uL
        [image002.jpg]
                             [**2187-3-4**]  11:39 PM
                             [**2187-3-5**]  04:46 AM
                             [**2187-3-5**]  05:56 PM
                             [**2187-3-6**]  04:28 AM
                             [**2187-3-6**]  06:05 PM
                             [**2187-3-7**]  02:54 AM
                             [**2187-3-7**]  09:01 PM
                             [**2187-3-8**]  04:12 AM
                             [**2187-3-9**]  04:19 AM
                             [**2187-3-10**]  04:47 AM
   WBC
   13.4
   11.9
   12.4
   10.1
   17.1
   10.5
   9.6
   Hct
   30.6
   30.9
   31.2
   29.1
   32.9
   30.1
   29.2
   Plt
   [**Telephone/Fax (3) 545**]
   363
   Cr
   1.5
   1.6
   1.4
   1.3
   1.4
   1.4
   1.3
   1.1
   TropT
   1.46
   1.55
   1.85
   Glucose
   [**Telephone/Fax (3) 439**]18
   112
   154
   190
   150
   Other labs: PT / PTT / INR:14.9/27.9/1.3, CK / CKMB /
   Troponin-T:37/7/1.85, ALT / AST:[**1-29**], Alk Phos / T Bili:76/0.6,
   Differential-Neuts:79.9 %, Band:Units: %
   Range: 0-5 %, Lymph:10.3 %, Mono:3.4 %, Eos:6.2 %, Lactic Acid:2.3
   mmol/L, Albumin:2.4 g/dL, LDH:222 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.0 mg/dL
   Imaging: none new
   Microbiology: none new
   Assessment and Plan
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 EF 10-15% on echo [**3-5**]
   -          If not CMO: continue diuresis with IV Lasix as BP tolerates,
   as still fluid overloaded. Goal net negative 1L today.
   -          Continue BB, ACE-I as tolerated by BP. Lower holding
   parameters on ACE-I as hasn
t been getting in last day
   -          prn morphine for pulmonary edema or discomfort
   -          Check PM lytes
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Most likely etiology is aspiration PNA with contribution from CHF.
   Leukocytosis resolved.
   -          Continue vancomycin and zosyn (day 1 = [**3-2**])
   -          given improved renal function, will change vanc to q24h,
   check a level this AM
   -          Continue scopolamine to reduce oral secretions, frequent
   suctioning as needed
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Elevated troponin on admission to 1.6
   -          now s/p heparin gtt (CI as had BRBPR)
   -          continue medical management with ASA, metoprolol, statin
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   LV thrombi
   -          Unable to anticoagulate given contraindications. No long
   term treatment is available.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): FeNa >5%, lytes most
   c/w ATN from hypotension. Has baseline CRI with Cr of 1.1-1.2
   -          Cr down to 1.1 today, will follow
 ANEMIA, OTHER
   -          Serial hematocrits stable, no further BRBPR after d/c of
   heparin gtt
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -          Stable, follow
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   -          Continue donepezil and memantine
 DIABETES MELLITUS (DM), TYPE II
   -          Continue glargine and humulog
 DYSPHAGIA
   Tube feeds via G tube
   ICU Care
   Nutrition:
   Comments: TF's via G tube
   Glycemic Control:  Regular insulin sliding scale, Comments: fixed and
   SS insulin
   Lines:
   Multi Lumen - [**2187-3-2**] 01:08 PM - will d/c this line but unable to
   get peripheral access, will ask IV to attempt PICC
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to rehab / long term care facility

2187-03-10 11:59:00 Physician Attending Progress Note
Chief Complaint: hypoxia/fever/aspiration PNA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 212**] yo with severe CHF, CRF, was hypotensive in ED - intubated with
   Right IJ placed, on levophed.  Had cardiac ischemia, on heparin, then
   had GIB.  Extubated, but developed pulmonary edema has had high oxygen
   requirement.
   24 Hour Events:
   Today slightly better - breathing is better, more interactive,
   following commands.
   Allergies:
   Ipratropium
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2187-3-9**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-10**] 10:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Donezipil
   ASA
   Celexa
   CaCO
   Vitamin D
   lansoprazole
   lipitor
   s/q heparin
   lopressor
   captropril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies SOB.  Mildly HOTNsive.  Awake and answering questions.
   Flowsheet Data as of  [**2187-3-10**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36
C (96.8
   HR: 64 (58 - 78) bpm
   BP: 120/60(75){86/44(55) - 120/70(81)} mmHg
   RR: 17 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.1 kg (admission): 94.1 kg
   Height: 70 Inch
             Total In:
                                                                  2,235 mL
                                                                    791 mL
   PO:
             TF:
                                                                  1,184 mL
                                                                    425 mL
   IVF:
                                                                    681 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                    425 mL
   Urine:
                                                                  1,285 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    950 mL
                                                                    366 mL
   Respiratory support
   O2 Delivery Device: None, Face tent
   SpO2: 100%
   ABG: ///32/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: diffuse)
   Extremities: Right: 3+, Left: 3+
   Skin:  Cool
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, Non-verbal
   Labs / Radiology
   9.6 g/dL
   363 K/uL
   150 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.1 mEq/L
   23 mg/dL
   106 mEq/L
   144 mEq/L
   29.2 %
   9.6 K/uL
        [image002.jpg]
                             [**2187-3-4**]  11:39 PM
                             [**2187-3-5**]  04:46 AM
                             [**2187-3-5**]  05:56 PM
                             [**2187-3-6**]  04:28 AM
                             [**2187-3-6**]  06:05 PM
                             [**2187-3-7**]  02:54 AM
                             [**2187-3-7**]  09:01 PM
                             [**2187-3-8**]  04:12 AM
                             [**2187-3-9**]  04:19 AM
                             [**2187-3-10**]  04:47 AM
   WBC
   13.4
   11.9
   12.4
   10.1
   17.1
   10.5
   9.6
   Hct
   30.6
   30.9
   31.2
   29.1
   32.9
   30.1
   29.2
   Plt
   [**Telephone/Fax (3) 545**]
   363
   Cr
   1.5
   1.6
   1.4
   1.3
   1.4
   1.4
   1.3
   1.1
   TropT
   1.46
   1.55
   1.85
   Glucose
   [**Telephone/Fax (3) 439**]18
   112
   154
   190
   150
   Other labs: PT / PTT / INR:14.9/27.9/1.3, CK / CKMB /
   Troponin-T:37/7/1.85, ALT / AST:[**1-29**], Alk Phos / T Bili:76/0.6,
   Differential-Neuts:79.9 %, Band:Units: %
   Range: 0-5 %, Lymph:10.3 %, Mono:3.4 %, Eos:6.2 %, Lactic Acid:2.3
   mmol/L, Albumin:2.4 g/dL, LDH:222 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Elevated troponin on admission to 1.6
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   LV thrombi
 RENAL FAILURE, ACUTE  on Chronic (ACUTE RENAL FAILURE, ARF)
   FeNa >5%, lytes most c/w ATN from hypotension
   Improved with resolution of HOTN.  Cr. baseline
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)  Improved
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
   Improved with diuresis.
   Hypoxemia:  Wean Oxygen.
 ANEMIA, OTHER
 DIABETES MELLITUS (DM), TYPE II
   Overall improvement.  Will hold off on diuresis as is mildly HOTNSive
   now.
 DYSPHAGIA
   Tube feeds via NG tube
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2187-3-10**] 09:00 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2187-3-2**] 01:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2187-03-11 08:02:00 Physician Resident Progress Note
Chief Complaint: aspiration pneumonia
   24 Hour Events:
   - appeared much more comfortable and alert in general. Apparently he
   spoke!!
   - weaned down O2 to just nasal cannula
   - Had asymptomatic runs of Accelerated Idioventricular Rhythm on tele
   when daughter was singing to him ((seriously, check them out, from
   13:30 yesterday)
   - diuresed: -400cc at MN, deemed acceptable even though goal was -1
   liter
   Allergies:
   Ipratropium
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2187-3-10**] 12:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-3-11**] 04:20 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-3-10**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: does not feel cold
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-3-11**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.2
   HR: 64 (58 - 76) bpm
   BP: 106/61(72){86/44(55) - 123/69(82)} mmHg
   RR: 12 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.1 kg (admission): 94.1 kg
   Height: 70 Inch
             Total In:
                                                                  2,514 mL
                                                                    558 mL
   PO:
             TF:
                                                                  1,113 mL
                                                                    171 mL
   IVF:
                                                                    890 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  2,905 mL
                                                                    540 mL
   Urine:
                                                                  2,905 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -391 mL
                                                                     18 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, Awake, making eye contact,
   answering yes/no questions appropriately
   Eyes / Conjunctiva: pupils equal
   Head, Ears, Nose, Throat: Right IJ in place
   Cardiovascular: (S1: Normal), (S2: Normal), distant, no murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   good air movement anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, cool extremities
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, answers questions but does not follow
   commands
   Labs / Radiology   PLEASE NOTE THESE LABS ARE FROM [**3-10**]
   363 K/uL
   9.6 g/dL
   150 mg/dL
   1.1 mg/dL
   32 mEq/L
   3.9 mEq/L
   23 mg/dL
   104 mEq/L
   145 mEq/L
   29.2 %
   9.6 K/uL
        [image002.jpg]
                             [**2187-3-4**]  11:39 PM
                             [**2187-3-5**]  04:46 AM
                             [**2187-3-5**]  05:56 PM
                             [**2187-3-6**]  04:28 AM
                             [**2187-3-6**]  06:05 PM
                             [**2187-3-7**]  02:54 AM
                             [**2187-3-7**]  09:01 PM
                             [**2187-3-8**]  04:12 AM
                             [**2187-3-9**]  04:19 AM
                             [**2187-3-10**]  04:47 AM
   WBC
   13.4
   11.9
   12.4
   10.1
   17.1
   10.5
   9.6
   Hct
   30.6
   30.9
   31.2
   29.1
   32.9
   30.1
   29.2
   Plt
   [**Telephone/Fax (3) 545**]
   363
   Cr
   1.5
   1.6
   1.4
   1.3
   1.4
   1.4
   1.3
   1.1
   TropT
   1.46
   1.55
   1.85
   Glucose
   [**Telephone/Fax (3) 439**]18
   112
   154
   190
   150
   Other labs: PT / PTT / INR:14.9/27.9/1.3, CK / CKMB /
   Troponin-T:37/7/1.85, ALT / AST:[**1-29**], Alk Phos / T Bili:76/0.6,
   Differential-Neuts:79.9 %, Band:Units: %
   Range: 0-5 %, Lymph:10.3 %, Mono:3.4 %, Eos:6.2 %, Lactic Acid:2.3
   mmol/L, Albumin:2.4 g/dL, LDH:222 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
   [**Age over 90 212**]yo gentleman with aspiration pneumonia and heart failure.
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Elevated troponin on admission to 1.6
   -          s/p heparin gtt, stopped when he had an episode of BRBPR
   -          on ASA, beta blocker, statin, ACE I
   # Respiratory failure from PNA and acute CHF
   -          continue vanc/zosyn for total of 14 day course (day 1 =
   [**3-2**])
   -          requiring frequent suctioning despite scopolamine
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   LV thrombi
   -          not on anticoagulation because of GI bleed; no options for
   treatment
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   FeNa >5%, lytes most c/w ATN from hypotension; awaiting Cr today
   (yesterday 1.1)
   -          if truly from ATN, should improve slowly with time; monitor
 HYPERNATREMIA (HIGH SODIUM)
resolved
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -          mental status improving
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC:
   -          continue gentle diuresis; goal -500cc as tolerated by BP
   -          continue beta blocker, ACE I
   -          may have morphine PRN for pulmonary edema or for discomfort
 ANEMIA, OTHER:
   -          Hct has been stable and no further episodes of blood in
   stool since heparin gtt stopped
 DIABETES MELLITUS (DM), TYPE II
   -          on glargine and humalog; increase insulin because of
   elevated sugars
 DYSPHAGIA
   -          continue NG tube for tube feeds
   ICU Care
   Nutrition:
   Comments: on tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2187-3-2**] 01:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor